US07745641B2
4-Hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (60.0 mg, 0.130 mmol) was dissolved in THF (3.6 mL), and the solution was added with triphenylphosphine (68 mg, 0.26 mmol), 2-dimethylaminoethanol (0.026 mL, 0.26 mmol) and 40% DEAD-toluene solution (0.118 mL) under ice-cooling, followed by stirring for 20 minutes. The reaction mixture was warmed to room temperature and stirred for 14 hours. The mixture was added with triphenylphosphine (68 mg, 0.26 mmol), 2-dimethylaminoethanol (0.026 mL, 0.26 mmol) and 40% DEAD-toluene solution (0.118 mL) and stirred for 1.7 hours. Then, the mixture was further added with triphenylphosphine (34 mg, 0.13 mmol), 2-dimethylaminoethanol (0.026 mL, 0.26 mmol) and 40% DEAD-toluene solution (0.059 mL), followed by stirring for 1.3 hours. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by preparative thin-layer chromatography (chloroform/methanol/7 mol/L ammonia-methanol solution=12/0.5/0.5, chloroform/methanol=3/1) to obtain 4-[2-(dimethylamino)ethoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (36.9 mg, yield 53%).

reactant | 4-Hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.130 mmol, 60.0 mg | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triphenylphosphine | 0.26 mmol, 68 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylaminoethanol | 0.26 mmol, 0.026 mL | CN(CCO)C | C4H11NO
reactant | DEAD toluene | 0.118 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
reactant | triphenylphosphine | 0.26 mmol, 68 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylaminoethanol | 0.26 mmol, 0.026 mL | CN(CCO)C | C4H11NO
reactant | DEAD toluene | 0.118 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
reactant | triphenylphosphine | 0.13 mmol, 34 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylaminoethanol | 0.26 mmol, 0.026 mL | CN(CCO)C | C4H11NO
reactant | DEAD toluene | 0.059 mL | CCOC(=O)/N=N/C(=O)OCC.C1(=CC=CC=C1)C
solvent | THF | 3.6 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-[2-(dimethylamino)ethoxy]-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 36.9 mg, yield 53% | CN(CCOC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)C | C31H40N4O4
